US06162824
(cc) 2,7-Dibromo-9-phenyl-9H-fluoren-9-ol:
from phenylmagnesium chloride and 2,7-dibromo-9-fluorenone;

reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | 2,7-dibromo-9-fluorenone | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)=O | C13H6Br2O
product | 2,7-Dibromo-9-phenyl-9H-fluoren-9-ol | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(O)C1=CC=CC=C1 | C19H12Br2O
